US06962911B2
Preparation of 1-(2-fluoroethyl)homopiperazine dihydrochloride (a compound of the formula (5) wherein n=2, m=1, Z=F)
A mixture of 1-tert-butoxycarbonyl-4-(2-fluoroethyl)homopiperazine (550 mg, 2.23 mmol) in 10% aqueous hydrochloric acid (2 mL) and tetrahydrofuran (4 mL) was stirred at room temperature for 2 h, and the reaction mixture was evaporated to dryness under vacuum. Resulting residue was triturated from Et2O/MeOH to afford the titled compound (475 mg, 97%) as a white solid.

reactant | 1-tert-butoxycarbonyl-4-(2-fluoroethyl)homopiperazine | 2.23 mmol, 550 mg | C(C)(C)(C)OC(=O)N1CCN(CCC1)CCF | C12H23FN2O2
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-(2-fluoroethyl)homopiperazine dihydrochloride | 475 mg, 97% | Cl.Cl.FCCN1CCNCCC1 | InChI=1S/C7H15FN2.2ClH/c8-2-6-10-5-1-3-9-4-7-10;;/h9H,1-7H2;2*1H
